US05175301
N-(2,6-Dimethyl-4-pyridylmethyl)-N-methylamine
The reaction according to Reference Example 11 was carried out using (2,6-dimethyl-4-pyridyl)methyl chloride in lieu of 2,6-dichloro-3-pyridylmethyl chloride to give the title compound as oil.

reactant | (2,6-dimethyl-4-pyridyl)methyl chloride | CC1=NC(=CC(=C1)CCl)C | C8H10ClN
reactant | 2,6-dichloro-3-pyridylmethyl chloride | ClC1=NC(=CC=C1CCl)Cl | C6H4Cl3N
product | N-(2,6-Dimethyl-4-pyridylmethyl)-N-methylamine | CC1=NC(=CC(=C1)CNC)C | C9H14N2
